US08871361B2
Synthesis of 3,5-diisopropyl-[1,1′-biphenyl]-4-amine
Dry nitrogen gas was bubbled into a mixture of 4-bromo-2,6-diisopropylaniline (35.1 g, 137 mmol), potassium phosphate tribasic monohydrate (126 g, 548 mmol) and 2-dicyclo-hexylphosphino-2′,6′-dimethoxybiphenyl [S-Phos] (2.250 g, 5.48 mmol) in toluene:water (10:1, 1400 mL) at room temperature for a period of 40 minutes. Pd2(dba)3 (1.255 g, 1.370 mmol) was then added to the mixture above. The reaction was refluxed under a nitrogen atmosphere and monitored by GC-MS. The reaction was complete after overnight refluxing. The reaction mixture was cooled down and the organic layer was separated, washed with water (3×) and filtered through a bed of Celite®. Toluene was removed in vacuum to give a crude oil which was purified by silica gel column chromatography using hexane/AcOEt: 9/1 to 85/15 as eluants. Pure fractions were distilled to afford the title compound as an oil (17.43 g, 50% yield).

reactant | 4-bromo-2,6-diisopropylaniline | 137 mmol, 35.1 g | BrC1=CC(=C(N)C(=C1)C(C)C)C(C)C | C12H18BrN
reactant | potassium phosphate tribasic monohydrate | 548 mmol, 126 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene water | 1400 mL | C1(=CC=CC=C1)C.O
catalyst | Pd2(dba)3 | 1.370 mmol, 1.255 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclo-hexylphosphino-2′,6′-dimethoxybiphenyl | 5.48 mmol, 2.250 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
product | 3,5-diisopropyl-[1,1′-biphenyl]-4-amine | 17.43 g, 50% yield | C(C)(C)C=1C=C(C=C(C1N)C(C)C)C1=CC=CC=C1 | C18H23N
